### PR TITLE
[Merged by Bors] - feat(Algebra/Lie/Extension): 2-cocycle from a Lie algebra extension with abelian kernel and a linear splitting

### PR DESCRIPTION
**Pull request by ScottCarnahan**
This PR defines the Lie algebra 2-cocycle of a Lie algebra extension with abelian kernel equipped with a linear splitting.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Abelian.lean [hunk 1]
```diff
@@ -138,6 +138,20 @@ protected theorem mem_ker (x : L) : x ∈ LieModule.ker R L M ↔ ∀ m : M, ⁅
...
     toEnd_apply_apply]
 
+lemma le_ker_of_abelian {I : LieIdeal R L} (hI : IsLieAbelian I) :
+    I ≤ (toEnd R L I).ker := by
+  intro x hx
+  refine LieHom.mem_ker.mpr ?_
+  ext ⟨y, hy⟩
+  have := IsTrivial.trivial (⟨x, hx⟩ : I) (⟨y, hy⟩ : I)
+  rw [LieIdeal.coe_bracket_of_module] at this
+  simp [this]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Abelian.lean]: We might as well prove both directions:
```suggestion
lemma _root_.LieIdeal.isLieAbelian_iff {I : LieIdeal R L} :
    IsLieAbelian I ↔ I ≤ (toEnd R L I).ker := by
  refine ⟨fun hI x hx ↦ LieHom.mem_ker.mpr ?_, fun h ↦ ⟨fun ⟨x, hx⟩ ⟨y, hy⟩ ↦ ?_⟩⟩
  · ext y
    have := IsTrivial.trivial (⟨x, hx⟩ : I) y
    rw [LieIdeal.coe_bracket_of_module] at this
    simp [this]
  · simpa using LinearMap.congr_fun (h hx) ⟨y, hy⟩
```

**Review by ocfnash — COMMENTED** [review]
Thanks!

So far I only had time for a quick comment but I will return soon.

File: Mathlib/Algebra/Lie/Abelian.lean [hunk 2]
```diff
@@ -138,6 +138,20 @@ protected theorem mem_ker (x : L) : x ∈ LieModule.ker R L M ↔ ∀ m : M, ⁅
   simp only [LieModule.ker, LieHom.mem_ker, LinearMap.ext_iff, LinearMap.zero_apply,
     toEnd_apply_apply]
 
+lemma _root_.LieIdeal.isLieAbelian_iff {I : LieIdeal R L} :
+    IsLieAbelian I ↔ I ≤ (toEnd R L I).ker := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Abelian.lean]: I guess we could write:
```suggestion
    IsLieAbelian I ↔ I ≤ LieModule.ker R L I := by
```
though looking now I'm a bit dubious about the value of `LieModule.ker` (which I think I must have added long ago).

File: Mathlib/Algebra/Lie/Abelian.lean [hunk 3]
```diff
@@ -138,6 +138,20 @@ protected theorem mem_ker (x : L) : x ∈ LieModule.ker R L M ↔ ∀ m : M, ⁅
...
+  · ext y
+    have := IsTrivial.trivial (⟨x, hx⟩ : I) y
+    rw [LieIdeal.coe_bracket_of_module] at this
+    simp [this]
+  · simpa using LinearMap.congr_fun (h hx) ⟨y, hy⟩
+
+lemma bracket_eq_zero_of_mem {I : LieIdeal R L} (hI : IsLieAbelian I) {x : L}
+    (hx : x ∈ I) (y : I) :
+    ⁅x, y⁆ = 0 :=
+  (LieModule.mem_ker R L I x).mp ((LieIdeal.isLieAbelian_iff R L).mp hI hx) y
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Abelian.lean]: I'm a bit dubious about this lemma since:

1. I think we should be consistent about how we supply `x` and `y`: either both of type `L` satisfying membership hypothesis in `I` or both of type `I` (currently the conventions are mixed).
2. This is just a restatement of `IsTrivial.trivial (⟨x, hx⟩ : I) (y : I)`

Do we definitely need this?

File: Mathlib/Algebra/Lie/Extension.lean [hunk 4]
```diff
@@ -72,20 +74,48 @@ structure Extension where
...
 end IsExtension
 
+namespace Extension
+
+variable [CommRing R] [LieRing L] [LieAlgebra R L] [LieRing M] [LieAlgebra R M]
+
+lemma image_incl_mem_ker (E : Extension R M L) (x : M) :
+    E.incl x ∈ E.proj.ker :=
+  Function.Exact.apply_apply_eq_zero
+    ((LieHom.range_eq_ker_iff E.incl E.proj).mp E.IsExtension.exact) x
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]:
```suggestion
  Function.Exact.apply_apply_eq_zero ((E.incl.range_eq_ker_iff E.proj).mp E.IsExtension.exact) x
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 5]
```diff
@@ -72,20 +74,48 @@ structure Extension where
...
   range_eq_top := (LieHom.range_eq_top f).mpr hf
   exact := LieIdeal.incl_range f.ker
 
 end IsExtension
 
+namespace Extension
+
+variable [CommRing R] [LieRing L] [LieAlgebra R L] [LieRing M] [LieAlgebra R M]
+
+lemma image_incl_mem_ker (E : Extension R M L) (x : M) :
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]:
```suggestion
lemma incl_apply_mem_ker (E : Extension R M L) (x : M) :
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 6]
```diff
@@ -72,20 +74,48 @@ structure Extension where
...
+    E.incl x ∈ E.proj.ker :=
+  Function.Exact.apply_apply_eq_zero
+    ((LieHom.range_eq_ker_iff E.incl E.proj).mp E.IsExtension.exact) x
+
+lemma proj_incl (E : Extension R M L) (x : M) :
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]:
```suggestion
@[simp] lemma proj_incl (E : Extension R M L) (x : M) :
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 7]
```diff
@@ -72,20 +74,48 @@ structure Extension where
...
+    E.proj (E.incl x) = 0 :=
+  LieHom.mem_ker.mp (image_incl_mem_ker E x)
+
+lemma incl_injective (E : Extension R M L) :
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean:114]: If we add this we should probably also add:
```lean
lemma proj_surjective (E : Extension R M L) :
    Function.Surjective E.proj :=
  (LieHom.range_eq_top E.proj).mp E.IsExtension.range_eq_top
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 8]
```diff
@@ -72,20 +74,48 @@ structure Extension where
...
+    Function.Injective E.incl :=
+  (LieHom.ker_eq_bot E.incl).mp E.IsExtension.ker_eq_bot
+
+/-- The equivalence from the kernel of the projection. -/
+def projInclEquiv (E : Extension R M L) : E.proj.ker ≃ E.incl.range where
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]:
```suggestion
def kerEquivRange (E : Extension R M L) : E.proj.ker ≃ₗ[R] E.incl.range where
  map_add' x y := by simp
  map_smul' t x := by simp
```

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Extension.lean]: Also, I think this should really be a lemma about `IsExtension` rather than `Extension`.

File: Mathlib/Algebra/Lie/Extension.lean [hunk 9]
```diff
@@ -219,15 +252,176 @@ def ofTwoCocycle : Extension R M L where
...
 def ofAlg : LieAlgebra.ofTwoCocycle c ≃ₗ⁅R⁆ (ofTwoCocycle c).L := LieEquiv.refl
 
 lemma bracket (x y : (ofTwoCocycle c).L) :
-    ⁅x, y⁆ = ofAlg c ⁅(ofAlg c).symm x, (ofAlg c).symm y⁆ := rfl
+    ⁅x, y⁆ = ofAlg c ⁅(ofAlg c).symm x, (ofAlg c).symm y⁆ :=
+  rfl
 
-end Extension
+@[simp]
+lemma ofTwoCocycle_incl_apply (x : M) : (ofTwoCocycle c).incl x = ofAlg c (ofProd c (0, x)) :=
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: What do you think of this:
```suggestion
lemma ofTwoCocycle_incl_apply (x : M) : (ofTwoCocycle c).incl x = ⟨(0, x)⟩ :=
```
I suspect it's likely to be more useful but maybe it's somewhat implementation-specific?

File: Mathlib/Algebra/Lie/Extension.lean [hunk 10]
```diff
@@ -219,15 +252,176 @@ def ofTwoCocycle : Extension R M L where
...
+  rfl
+
+@[simp]
+lemma ofTwoCocycle_proj_apply (x : (ofTwoCocycle c).L) :
+    (ofTwoCocycle c).proj x = ((ofProd c).symm ((ofAlg c).symm x)).1 :=
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: Similarly here:
```suggestion
    (ofTwoCocycle c).proj x = x.carrier.1 :=
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 11]
```diff
@@ -219,15 +252,176 @@ def ofTwoCocycle : Extension R M L where
...
+  rfl
+
+end TwoCocycle
+
+lemma hasRightInverse_proj (E : Extension R M L) :
+    Function.HasRightInverse E.proj := by
+  rw [← Function.surjective_iff_hasRightInverse]
+  exact ((LieHom.range_eq_top E.proj).mp E.IsExtension.range_eq_top)
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: I think if we add `proj_surjective` above then we should drop this:
```suggestion
```
(after all its proof will be just `E.proj_surjective.hasRightInverse`)

File: Mathlib/Algebra/Lie/Extension.lean [hunk 12]
```diff
@@ -219,15 +252,176 @@ def ofTwoCocycle : Extension R M L where
...
+
+lemma bracket_mem_incl_range (E : Extension R M L) (x : L) (y : M) :
+    ⁅E.hasRightInverse_proj.choose x, E.incl y⁆ ∈ E.proj.ker := by
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: Slightly more is true I think:
```suggestion
lemma lie_incl_mem_ker {E : Extension R M L} (x : E.L) (y : M) :
    ⁅x, E.incl y⁆ ∈ E.proj.ker := by
```

**Review by ocfnash — COMMENTED** [review]
A few more minor remarks. Hopefully I'll get to meat of it in my next and final review :-)

File: Mathlib/Algebra/Lie/Abelian.lean (hunk 3 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Lie/Abelian.lean]: No. I've deleted it.

File: Mathlib/Algebra/Lie/Extension.lean (hunk 8 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Lie/Extension.lean]: I changed it to use `IsExtension`.

File: Mathlib/Algebra/Lie/Extension.lean [hunk 13]
```diff
@@ -56,6 +57,14 @@ lemma _root_.LieHom.range_eq_ker_iff (i : N →ₗ⁅R⁆ L) (p : L →ₗ⁅R
     i.range = p.ker ↔ Function.Exact i p :=
   ⟨fun h x ↦ by simp [← LieHom.coe_range, h], fun h ↦ (p.ker.toLieSubalgebra.ext i.range h).symm⟩
 
+/-- The equivalence from the kernel of the projection. -/
+def IsExtension.kerEquivRange (i : N →ₗ⁅R⁆ L) (p : L →ₗ⁅R⁆ M) [IsExtension i p] :
+    p.ker ≃ₗ[R] i.range where
+  toFun v := ⟨v.val, (LieSubalgebra.mem_coe i.range).mp (by simp [IsExtension.exact (p := p)])⟩
+  map_add' _ _ := rfl
+  map_smul' _ _ := rfl
+  invFun v := ⟨v.val, LieHom.mem_ker.mp (by simpa [IsExtension.exact (i := i) (p := p)] using v.2)⟩
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]:
```suggestion
    p.ker ≃ₗ[R] i.range :=
  .ofEq (R := R) (M := L) p.ker i.range <| by simp [exact (i := i) (p := p)]
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 14]
```diff
@@ -219,15 +256,180 @@ def ofTwoCocycle : Extension R M L where
...
+lemma ofTwoCocycle_proj_apply (x : (ofTwoCocycle c).L) : (ofTwoCocycle c).proj x = x.carrier.1 :=
+  rfl
+
+end TwoCocycle
+
+/-lemma proj_surjective.hasRightInverse (E : Extension R M L) :
+    Function.HasRightInverse E.proj := by
+  rw [← Function.surjective_iff_hasRightInverse]
+  exact ((LieHom.range_eq_top E.proj).mp E.IsExtension.range_eq_top)
+-/
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]:
```suggestion
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 15]
```diff
@@ -219,15 +256,180 @@ def ofTwoCocycle : Extension R M L where
...
+      r • E.proj_surjective.hasRightInverse.choose x ∈ E.proj.ker := by
+  rw [LieHom.mem_ker, map_sub, E.proj_surjective.hasRightInverse.choose_spec, sub_eq_zero, map_smul,
+    E.proj_surjective.hasRightInverse.choose_spec]
+
+lemma braket_sub_choose (E : Extension R M L) (x y : L) :
+    ⁅E.proj_surjective.hasRightInverse.choose x, E.proj_surjective.hasRightInverse.choose y⁆ -
+      E.proj_surjective.hasRightInverse.choose ⁅x, y⁆ ∈ E.proj.ker := by
+  rw [LieHom.mem_ker, map_sub, E.proj_surjective.hasRightInverse.choose_spec, sub_eq_zero,
+    LieHom.map_lie, E.proj_surjective.hasRightInverse.choose_spec,
+    E.proj_surjective.hasRightInverse.choose_spec]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: I'm not convinced we want these lemmas. For example, the first is just the statement that `E.proj` is additive specialised to the case that it is applied to `E.proj_surjective.hasRightInverse.choose x` and `E.proj_surjective.hasRightInverse.choose y`. I think we should drop these:
```suggestion
```
I'll try to provide alternate proofs for where they are used below.

File: Mathlib/Algebra/Lie/Extension.lean [hunk 16]
```diff
@@ -219,15 +256,180 @@ def ofTwoCocycle : Extension R M L where
...
+  toFun m := ⟨E.incl m, E.incl_apply_mem_ker m⟩
+  map_add' _ _ := by simp
+  map_smul' _ _ := by simp
+  map_lie' {x y} := by ext; simp [← LieHom.map_lie]
+  invFun := (Equiv.ofInjective E.incl E.incl_injective).symm ∘ E.IsExtension.kerEquivRange
+  left_inv _ := by simp [IsExtension.kerEquivRange]
+  right_inv x := by
+    simp only [IsExtension.kerEquivRange, Function.comp_apply]
+    refine Subtype.ext ?_
+    refine Equiv.apply_ofInjective_symm E.incl_injective ⟨x.val, _⟩
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]:
```suggestion
  right_inv x := by simpa [Subtype.ext_iff] using Equiv.apply_ofInjective_symm E.incl_injective _
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 17]
```diff
@@ -219,15 +256,180 @@ def ofTwoCocycle : Extension R M L where
...
+
+lemma toKer_map_lie (E : Extension R M L) (x : M) (y : E.L) :
+    ⁅y, E.toKer x⁆ = ⁅y, E.incl x⁆ := by rfl
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]:
```suggestion
@[simp] lemma lie_toKer_apply (E : Extension R M L) (x : M) (y : E.L) :
    ⁅y, E.toKer x⁆ = ⁅y, E.incl x⁆ :=
  rfl
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 18]
```diff
@@ -219,15 +256,180 @@ def ofTwoCocycle : Extension R M L where
...
+
+lemma bracket_bracket_choose_choose [IsLieAbelian M] (E : Extension R M L) (x y : L)
+    (z : E.proj.ker) :
+    ⁅⁅E.proj_surjective.hasRightInverse.choose x, E.proj_surjective.hasRightInverse.choose y⁆, z⁆ =
+    ⁅E.proj_surjective.hasRightInverse.choose ⁅x, y⁆, z⁆ := by
+  rw [← sub_eq_zero, ← sub_lie]
+  have _ : IsLieAbelian E.proj.ker :=
+    (lie_abelian_iff_equiv_lie_abelian E.toKer.symm).mpr inferInstance
+  exact LieModule.IsTrivial.trivial (⟨_, braket_sub_choose E x y⟩ : E.proj.ker) z
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: Likewise I don't think we need this lemma
```suggestion
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 19]
```diff
@@ -219,15 +256,180 @@ def ofTwoCocycle : Extension R M L where
...
+
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean:300]: If we make this an instance we don't need to keep conjuring it up manually in proofs:
```suggestion

instance [IsLieAbelian M] (E : Extension R M L) : IsLieAbelian E.proj.ker :=
  (lie_abelian_iff_equiv_lie_abelian E.toKer.symm).mpr inferInstance

```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 20]
```diff
@@ -219,15 +256,180 @@ def ofTwoCocycle : Extension R M L where
...
+    rw [← map_add, ← LieRingModule.add_lie, eq_comm, EquivLike.apply_eq_iff_eq, ← sub_eq_zero,
+      ← sub_lie]
+    have := (lie_abelian_iff_equiv_lie_abelian E.toKer.symm).mpr inferInstance
+    exact LieModule.IsTrivial.trivial
+      (⟨_, E.choose_proj_surjective_add_sub_mem x y⟩ : E.proj.ker) (E.toKer m)
+  lie_add x m n := by simp [← map_add, ← LieRingModule.lie_add]
+  leibniz_lie x y m := by
+    rw [← map_add, EquivLike.apply_eq_iff_eq, LieEquiv.apply_symm_apply, LieEquiv.apply_symm_apply,
+      LieRingModule.leibniz_lie (E.proj_surjective.hasRightInverse.choose x)
+      (E.proj_surjective.hasRightInverse.choose y) (E.toKer m), bracket_bracket_choose_choose]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: After dropping the lemmas above this can be just:
```suggestion
    set h := E.proj_surjective.hasRightInverse
    rw [← map_add, ← add_lie, eq_comm, EquivLike.apply_eq_iff_eq, ← sub_eq_zero, ← sub_lie]
    exact trivial_lie_zero E.proj.ker _ ⟨_, by simp [h.choose_spec _]⟩ (E.toKer m)
  lie_add x m n := by simp [← map_add, ← lie_add]
  leibniz_lie x y m := by
    set h := E.proj_surjective.hasRightInverse
    have aux (z : E.proj.ker) : ⁅⁅h.choose x, h.choose y⁆, z⁆ = ⁅h.choose ⁅x, y⁆, z⁆ := by
      rw [← sub_eq_zero, ← sub_lie]
      exact trivial_lie_zero E.proj.ker _ ⟨_, by simp [h.choose_spec _]⟩ z
    rw [← map_add, EquivLike.apply_eq_iff_eq, LieEquiv.apply_symm_apply, LieEquiv.apply_symm_apply,
      leibniz_lie, aux]
```

File: Mathlib/Algebra/Lie/Extension.lean [hunk 21]
```diff
@@ -219,15 +256,180 @@ def ofTwoCocycle : Extension R M L where
...
+  letI := E.ringModuleOf
+  refine {
+    smul_lie r x m := by
+      simp only [ringModuleOf_bracket]
+      rw [← map_smul, ← smul_lie, EquivLike.apply_eq_iff_eq, ← sub_eq_zero,
+        ← sub_lie]
+      have := (lie_abelian_iff_equiv_lie_abelian E.toKer.symm).mpr inferInstance
+      exact LieModule.IsTrivial.trivial
+        (⟨_, E.choose_proj_surjective_smul_sub_mem r x⟩ : E.proj.ker) (E.toKer m)
+    lie_smul r x m := by simp }
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]:
```suggestion
  set h := E.proj_surjective.hasRightInverse
  exact
    { smul_lie r x m := by
        rw [ringModuleOf_bracket, ringModuleOf_bracket, ← map_smul, ← smul_lie,
          EquivLike.apply_eq_iff_eq, ← sub_eq_zero, ← sub_lie]
        exact trivial_lie_zero E.proj.ker _ ⟨_, by simp [h.choose_spec _]⟩ (E.toKer m)
      lie_smul r x m := by simp }
```

**Review by ocfnash — COMMENTED** [review]
Thanks, I think I'll have only nitpicks left after these suggestions!

Looking forward to seeing this in master :-)

File: Mathlib/Algebra/Lie/Extension.lean (hunk 17 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Lie/Extension.lean]: I had to change the statement a bit to please the simpNF linter.

File: Mathlib/Algebra/Lie/Extension.lean [hunk 22]
```diff
@@ -223,15 +257,147 @@ def ofTwoCocycle : Extension R M L where
...
+      lie_smul r x m := by simp }
+
+lemma toKer_bracket [IsLieAbelian M] (E : Extension R M L) (x : E.proj.ker) (y : L) :
+    letI := E.ringModuleOf
+    E.toKer ⁅y, E.toKer.symm x⁆ = ⁅E.proj_surjective.hasRightInverse.choose y, x⁆ := by
+  simp
+
+lemma section_lie_sub_mem_ker (E : Extension R M L) {s : L →ₗ[R] E.L}
+    (hs : Function.LeftInverse E.proj s) (x y : L) : ⁅s x, s y⁆ - s ⁅x, y⁆ ∈ LieHom.ker E.proj := by
+  rw [LieHom.mem_ker, map_sub, sub_eq_zero, LieHom.map_lie, hs, hs, hs]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: Again I think this is just a slightly awkward restatement that `E.proj` preserves the bracket so I think we should avoid it:
```suggestion
```
(adding extra general API if necessary)

File: Mathlib/Algebra/Lie/Extension.lean [hunk 23]
```diff
@@ -223,15 +257,147 @@ def ofTwoCocycle : Extension R M L where
...
+
+/-- A preparatory function for making a 2-cocycle from a linear splitting of an extension. -/
+@[simps]
+private def twoCocycleAux (E : Extension R M L) {s : L →ₗ[R] E.L}
+    (hs : Function.LeftInverse E.proj s) :
+    L →ₗ[R] L →ₗ[R] E.proj.ker where
+  toFun x := {
+    toFun y := ⟨⁅s x, s y⁆ - s ⁅x, y⁆, E.section_lie_sub_mem_ker hs x y⟩
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: If we drop the lemma above as I suggest then this can be just:
```suggestion
    toFun y := ⟨⁅s x, s y⁆ - s ⁅x, y⁆, by simp [hs _]⟩
```
Better yet would be to add the following missing lemma to the relevant file:
```lean

lemma Function.LeftInverse.eq {α β : Type*} {g : β → α} {f : α → β}
    (h : LeftInverse g f) (x : α) :
    g (f x) = x :=
  h x
```
and then the proof here can be just `simp [hs.eq]` instead of `simp [hs _]`.

File: Mathlib/Algebra/Lie/Extension.lean [hunk 24]
```diff
@@ -223,15 +257,147 @@ def ofTwoCocycle : Extension R M L where
...
+  rw [LieHom.mem_ker, map_sub, E.proj_surjective.hasRightInverse.choose_spec, hs, sub_eq_zero]
+
+lemma bracket_choose_twoCocycleAux [IsLieAbelian M] (E : Extension R M L) {s : L →ₗ[R] E.L}
+    (hs : Function.LeftInverse E.proj s) (x y z : L) :
+    ⁅E.proj_surjective.hasRightInverse.choose x, E.twoCocycleAux hs y z⁆ =
+      ⁅s x, E.twoCocycleAux hs y z⁆ := by
+  rw [← sub_eq_zero, ← sub_lie]
+  have := (lie_abelian_iff_equiv_lie_abelian E.toKer.symm).mpr inferInstance
+  exact LieModule.IsTrivial.trivial (L := E.proj.ker)
+    ⟨_, section_sub_choose_mem E hs x⟩ (E.twoCocycleAux hs y z)
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]: Here again, I'd try to drop some of these redundant lemmas:
```suggestion
lemma bracket_choose_twoCocycleAux [IsLieAbelian M] (E : Extension R M L) {s : L →ₗ[R] E.L}
    (hs : Function.LeftInverse E.proj s) (x y z : L) :
    ⁅E.proj_surjective.hasRightInverse.choose x, E.twoCocycleAux hs y z⁆ =
      ⁅s x, E.twoCocycleAux hs y z⁆ := by
  rw [← sub_eq_zero, ← sub_lie]
  exact LieModule.IsTrivial.trivial (L := E.proj.ker)
    ⟨_, by simp [E.proj_surjective.hasRightInverse.choose_spec _, hs _]⟩ (E.twoCocycleAux hs y z)
```
In fact I'd probably try to drop `bracket_choose_twoCocycleAux` but I'm literally out of time so I'll have to leave this for now.

File: Mathlib/Algebra/Lie/Extension.lean (hunk 23 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Lie/Extension.lean]: `#find_home!` suggests a collection of low-level files like `Init.Prelude`, so perhaps the "better yet" suggestion can be a TODO for later.

File: Mathlib/Algebra/Lie/Extension.lean (hunk 24 above)
Comment (ScottCarnahan) [reply Mathlib/Algebra/Lie/Extension.lean]: I found that I can replace `E.twoCocycleAux hs y z` by any element of `E.proj.ker` in the statement, so it is a bit less specialized.

File: Mathlib/Algebra/Lie/Extension.lean (hunk 23 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Extension.lean]: How about we drop:
```lean
lemma LeftInverse.eq {g : β → α} {f : α → β} (h : LeftInverse g f) (x : α) : g (f x) = x := h x

lemma RightInverse.eq {g : β → α} {f : α → β} (h : RightInverse g f) (x : β) : f (g x) = x := h x
```
in `Mathlib.Logic.Function.Basic` [here](https://github.com/leanprover-community/mathlib4/blob/f9aa5367abe424c961a5b21d7d60bfed6e7766a5/Mathlib/Logic/Function/Basic.lean#L287).

File: Mathlib/Algebra/Lie/Extension.lean (hunk 24 above)
Comment (ocfnash) [reply Mathlib/Algebra/Lie/Extension.lean]: Great! I have one last suggestion to make this proof a bit more maintainable which I'll suggest in a new comment.

File: Mathlib/Algebra/Lie/Extension.lean [hunk 25]
```diff
@@ -223,15 +257,138 @@ def ofTwoCocycle : Extension R M L where
...
+    property := by simp [twoCocycleAux, twoCochain] }
+  property := by
+    ext x y z
+    simp only [d₂₃_apply, ← twoCochain_val_apply, LinearMap.compr₂_apply, LinearEquiv.coe_coe,
+      LieEquiv.coe_toLinearEquiv, ringModuleOf_bracket, LieEquiv.apply_symm_apply,
+      E.bracket_choose hs, LinearMap.zero_apply]
+    simp only [twoCocycleAux, LinearMap.coe_mk, AddHom.coe_mk, lie_lie, map_sub]
+    simp only [← map_sub, ← map_add, EmbeddingLike.map_eq_zero_iff, Subtype.ext_iff]
+    simp only [map_sub, AddSubgroupClass.coe_sub, LieSubmodule.coe_add, LieSubmodule.coe_bracket,
+      lie_sub, ZeroMemClass.coe_zero]
```
Comment (ocfnash) [inline Mathlib/Algebra/Lie/Extension.lean]:
```suggestion
lemma lie_apply_proj_of_leftInverse_eq [IsLieAbelian M] (E : Extension R M L) {s : L →ₗ[R] E.L}
    (hs : Function.LeftInverse E.proj s) (x : E.L) (y : E.proj.ker) :
    ⁅s (E.proj x), y⁆ = ⁅x, y⁆ := by
  rw [← sub_eq_zero, ← sub_lie]
  exact trivial_lie_zero E.proj.ker E.proj.ker ⟨_, (by simp [hs _])⟩ y

/-- The 2-cocycle attached to an extension with a linear section. -/
@[simps]
noncomputable def twoCocycleOf [IsLieAbelian M] (E : Extension R M L) {s : L →ₗ[R] E.L}
    (hs : Function.LeftInverse E.proj s) :
    letI := E.ringModuleOf
    have := E.lieModuleOf
    twoCocycle R L M where
  val := {
    val := (E.twoCocycleAux hs).compr₂ E.toKer.symm
    property := by simp [twoCocycleAux, twoCochain] }
  property := by
    -- TODO Try to golf this after https://github.com/leanprover-community/mathlib4/pull/27306 lands
    ext x y z
    suffices ⁅s x, ⁅s y, s z⁆⁆ - ⁅s x, s ⁅y, z⁆⁆ -
        (⁅s y, ⁅s x, s z⁆⁆ - ⁅s y, s ⁅x, z⁆⁆) + (⁅s z, ⁅s x, s y⁆⁆ - ⁅s z, s ⁅x, y⁆⁆) -
          (⁅s ⁅x, y⁆, s z⁆ - (s ⁅x, ⁅y, z⁆⁆ - s ⁅y, ⁅x, z⁆⁆)) +
        (⁅s ⁅x, z⁆, s y⁆ - (s ⁅x, ⁅z, y⁆⁆ - s ⁅z, ⁅x, y⁆⁆)) -
        (⁅s ⁅y, z⁆, s x⁆ - (s ⁅y, ⁅z, x⁆⁆ - s ⁅z, ⁅y, x⁆⁆)) = 0 by
      set h := E.proj_surjective.hasRightInverse
      have aux (u : L) (v : E.proj.ker) : ⁅h.choose u, v⁆ = ⁅s u, v⁆ := by
        rw [← E.lie_apply_proj_of_leftInverse_eq hs, h.choose_spec _]
      simpa [← map_sub, ← map_add, ← twoCochain_val_apply, Subtype.ext_iff, twoCocycleAux, aux]
```

Comment (ocfnash) [reply Mathlib/Algebra/Lie/Extension.lean]: I'm going to try applying this myself just to be sure I've pasted this successfully, while I still have it working locally.
